US03996364
A solution of 4.0 g. of 9-acetoxyxanthene and 2.0 g. of 4-aminomethylpyridine in 100 ml. of benzene is refluxed for 24 hours. The reaction mixture is stripped of solvent and the residue dissolved in ether. The ether solution is washed with cold 5% sodium carbonate and water and dried over potassium carbonate and chromatographed with alumina and eluting with ether/hexane. The eluate is extracted with ether/acetone and concentrated in vacuo to give 4-pyridylmethyl-9-xanthylamine having a m.p. of 83°-85° C.

reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
reactant | 4-aminomethylpyridine | NCC1=CC=NC=C1 | C6H8N2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 4-pyridylmethyl-9-xanthylamine | N1=CC=C(C=C1)CNC1C2=CC=CC=C2OC=2C=CC=CC12 | C19H16N2O
